US06380242B1
(cc) 1-(2-pyrrolidinyl)ethyl-6-(3-pyridinyl)-1H-indole:
(9.3 mg, 49%); from 6-Bromo-1-(2-pyrrolidinyl)ethyl indole (19.0 mg, 0.065 mmol) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (21.0 mg, 0.130 mmol).

reactant | 6-Bromo-1-(2-pyrrolidinyl)ethyl indole | 0.065 mmol, 19.0 mg | BrC1=CC=C2C=C(NC2=C1)C(C)C1NCCC1 | C14H17BrN2
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.130 mmol, 21.0 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
product | 1-(2-pyrrolidinyl)ethyl-6-(3-pyridinyl)-1H-indole | N1C(CCC1)C(C)N1C=CC2=CC=C(C=C12)C=1C=NC=CC1 | C19H21N3
